US06982352B2
In a similar manner to Example 1, 230.4 g (2.0 mol) of N-ethyl-1,2-dimethylpropylamine and 330.2 g (3.2 mol) of formaldehyde (29.1%) are reacted in a 1 l autoclave; a maximum pressure of 2.3 MPa is established at a temperature of 120° C. After the crude amine (aqueous and organic phase) has been degassed at a maximum temperature of 94° C., the water is removed on a water separator. The remaining organic phase is subsequently fractionally distilled. 251.7 g of N-methyl-N-ethyl-1,2-dimethylpropylamine having a purity of 98.6% are isolated, corresponding to a yield of 96.0% of theory.

reactant | N-ethyl-1,2-dimethylpropylamine | 2.0 mol, 230.4 g | C(C)NC(C(C)C)C | C7H17N
reactant | formaldehyde | 3.2 mol, 330.2 g | C=O | CH2O
product | N-methyl-N-ethyl-1,2-dimethylpropylamine | 251.7 g, yield of 96.0% | CN(CC)C(C(C)C)C | C8H19N
